US04514408
To a solution of 8.6 g of hydroxylamine hydrochloride in 26 ml of ethanol, stirred at the room temperature for 30 minutes, a solution of 2.8 g of 85% potassium hydroxide in 10 ml of 50% ethanol is added. The resulting solution is stirred 10 minutes and added with 8.7 g of 2-[3-(2,5-dimethylpyrrol-1-yl)propoxy]-4-piperidinomethylpyridine. The mixture is heated with reflux for 6 hours, filtered, washed with ethanol, acidified with N hydrochloric acid and washed twice with 30 ml of ethyl acetate. The pH of the aquoeus solution is adjusted to 8, then the solution is washed twice again with 30 ml of ethyl acetate and made clearly basic by addition of a concentrated solution of potassium hydroxide. The solution is extracted with ethyl acetate, the organic phase is dried over anhydrous sodium sulfate and the solvent is evaporated off. Thus, there is obtained 5.3 g of 3-(4-piperidinomethylpyrid-2-yloxy)propylamine as an oil.

reactant | hydroxylamine hydrochloride | 8.6 g | Cl.NO
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
reactant | 2-[3-(2,5-dimethylpyrrol-1-yl)propoxy]-4-piperidinomethylpyridine | 8.7 g | CC=1N(C(=CC1)C)CCCOC1=NC=CC(=C1)CN1CCCCC1 | C20H29N3O
solvent | ethanol | 26 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(4-piperidinomethylpyrid-2-yloxy)propylamine | 5.3 g | N1(CCCCC1)CC1=CC(=NC=C1)OCCCN | C14H23N3O
